US08748469B2
N-(3-(2-Hydroxyethyl)phenyl)acetamide
To a vial containing 2-(3-aminophenyl)ethanol (137.0 mg, 1.0 mmol) in glacial acetic acid (3 mL) was added acetic anhydride (1 mL). The reaction vial was sealed and heated at 110° C. for 6 h. The mixture was concentrated under reduced pressure. The crude product was dissolved in MeOH (3 mL) and LiOH (120.0 mg, 5.0 mmol) was added. The solution was allowed to stir overnight at rt. The solution was concentrated under reduced pressure and diluted with ethyl acetate. The organic phase was washed with water (2×5 mL), brine and dried (Na2SO4). The solvent was removed under reduced pressure and the crude mixture was purified by column chromatography to afford the desired product in 39%. 1H NMR: 1.65 (t, 1H, J=6.0 Hz), 2.13 (s, 3H), 2.81 (t, 2H, J=6.4 Hz), 3.81 (q, 2H, J=6.0 Hz), 6.94 (t, 1H, J=6.8 Hz), 7.22 (t, 1H, J=7.6 Hz), 7.30-7.40 (m, 3H).

reactant | 2-(3-aminophenyl)ethanol | 1.0 mmol, 137.0 mg | NC=1C=C(C=CC1)CCO | C8H11NO
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | LiOH | 5.0 mmol, 120.0 mg | [Li+].[OH-]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | N-(3-(2-Hydroxyethyl)phenyl)acetamide | OCCC=1C=C(C=CC1)NC(C)=O | C10H13NO2
